US04496572
Sodium hydride (0.8 g of 50% dispersion in mineral oil) was added portionwise to a stirred solution of 2,3-dimethylindole-5-carboxylic acid ethyl ester (3.50 g) in dry N,N-dimethylformamide (25 ml) and the mixture was stirred at room temperature for 30 minutes and then cooled to 0°. A solution of acetyl chloride (1.27 g) in dry N,N-dimethylformamide (2.5 ml) was added dropwise with stirring over 2 minutes. The resulting mixture was stirred at room temperature for 3 hours and then poured into water. The mixture was extracted several times with ethyl acetate and the combined extracts were washed well with water and dried (Na2SO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with chloroform first gave mineral oil followed by product. Evaporation of the product-containing fractions gave a solid which was crystallised from ethyl acetate/petrol (b.p. 60°-80°) to give 1-acetyl-2,3-dimethylindole-5-carboxylic acid ethyl ester (1.22 g), m.p. 98°-101°.

reactant | Sodium hydride | 0.8 g | [H-].[Na+]
reactant | 2,3-dimethylindole-5-carboxylic acid ethyl ester | 3.50 g | C(C)OC(=O)C=1C=C2C(=C(NC2=CC1)C)C | C13H15NO2
reactant | acetyl chloride | 1.27 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | 1-acetyl-2,3-dimethylindole-5-carboxylic acid ethyl ester | 1.22 g | C(C)OC(=O)C=1C=C2C(=C(N(C2=CC1)C(C)=O)C)C | C15H17NO3
